US09255110B2
Diisopropylethylamine (0.35 mL, 2.01 mmol) was added at room temperature to a suspension of 4-(2-amino-4-chloro-phenoxy)-cyclohexanol (127 mg, 0.525 mmol), pyrazolo[1,5-c]pyrimidine-3-carboxylic acid (85 mg, 0.521 mmol) and HBTU (0.21 g, 0.55 mmol) in anhydrous acetonitrile (15 mL) and the resulting solution was heated at 80° C. overnight. The resulting mixture was partitioned between ethyl acetate and an aqueous solution of sodium bicarbonate (5%). The aqueous layer was extracted 3 times with ethyl acetate and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The brown oily residue was purified on a silica gel plug and by flash chromatography (DCM/MeOH/NH4OH) to give a pale yellow solid which was washed with dichloromethane and methanol to give 75 mg (38% yield) of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-chloro-2-(4-hydroxy-cyclohexyloxy)-phenyl]-amide as a white powder. MS=387 [M+H]+.

reactant | Diisopropylethylamine | 2.01 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-amino-4-chloro-phenoxy)-cyclohexanol | 0.525 mmol, 127 mg | NC1=C(OC2CCC(CC2)O)C=CC(=C1)Cl | C12H16ClNO2
reactant | pyrazolo[1,5-c]pyrimidine-3-carboxylic acid | 0.521 mmol, 85 mg | N1=CC(=C2N1C=NC=C2)C(=O)O | C7H5N3O2
reactant | HBTU | 0.55 mmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-chloro-2-(4-hydroxy-cyclohexyloxy)-phenyl]-amide | 75 mg, 38% yield | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC=C2)OC2CCC(CC2)O | C19H19ClN4O3
